Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C+:2]([O:3][H:12])=[C:4]([O-:5])[C:6]#[C:7][H:13].[C:1]([H:8])([H:9])([H:10])[H:11]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],6.612055044415406
[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[C:4](/[C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:16],107.470006682162
[C:1]([C@@:2]12[O:3][C@@:4]3([H:11])[C@:5]1([H:12])[O:6][C@@:7]23[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:6][C@@:7]1([H:13])[C:2]2=[C:5]([H:12])[C@:4]1([H:11])[O:3]2)([H:8])([H:9])[H:10],95.5756233334868
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@:4]([O:5][H:13])([H:12])[C:6]1=[C:7])([H:9])[H:10])[H:8],81.71940350298459
[C-:6]#[O+:7].[C:1]([O:2][C:3]([C:4]([N:5]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],56.07238145624581
[C:1]1([H:7])([H:8])[C:2]([H:10])=[C:3]1[C:6]([H:9])([H:15])[H:16].[C:4](=[C:5]([H:13])[H:14])([H:11])[H:12]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]2([H:15])[H:16],69.6549989512504
[C:1]1([H:7])([H:8])[C+:2]=[C:3]([H:10])[C@@:4]2([H:11])[N-:5][C@@:6]12[H:13].[H:9][H:12]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],29.6551852401127
[C-:3]#[O+:4].[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[N:5]([C:6]([H:13])([H:14])[H:15])([H:7])[H:12]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],36.027607046614
[C:1]([C@@:2]1([H:10])[C:3]([H:11])=[C:4]1[O:6][H:16])([H:7])([H:8])[H:9].[C:5]([H:12])([H:13])([H:14])[H:15]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],77.3383294638921
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:5]1([H:14])[C:4]([H:13])=[N+:3]([C-:2]([H:11])[H:12])[C:7]([H:15])=[N:6]1)([H:8])([H:9])[H:10],99.79798088849041
[C:1](#[C:2][C:3]#[N:4])[C:5]#[N:6]>>[C:1](=[C-:2])([N+:4]#[C:3])[C:5]#[N:6],100.79695493444001
[O:1]([c+:2]1[n-:3][c:4]([O:5][H:9])[c:6]([H:10])[n:7]1[H:11])[H:8]>>[O:1](/[N:3]=[C:2]1/[C:4]([O:5][H:9])=[C:6]([H:10])[N:7]1[H:11])[H:8],141.797799780052
[C-:6]#[O+:7].[C:1]([H:8])([H:9])([H:10])[H:15].[C:2]1(=[O:5])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],55.1043386789646
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:9])[H:14])([H:6])([H:7])[H:8].[C:4]([O:5][H:15])[H:13],69.9874255176043
[C:1]([C:2]([O+:3]=[C-:4][H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([C:6]([H:16])([H:17])[H:18])([H:13])([H:14])[H:15]>>[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],63.497744350782085
[C:1](=[C:6]([O:5]/[C:4](=[C:3](\[C:2][H:9])[H:10])[H:11])[H:12])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12],9.925339536993306
[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([N+:6]#[C-:5])([H:7])([H:8])[H:9].[O:2]=[C:3]=[O:4],69.8086453570012
[C:1]1([H:8])([H:9])[C@@:2]([C:6](=[C-:7][H:15])[H:10])([H:11])[C:3]([H:12])([H:13])[C+:4]=[C:5]1[H:14]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],27.382246820344406
[C:1]([O:2][H:15])([H:8])([H:9])[H:10].[C:3]1([H:11])([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6](=[O:7])[H:16]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],32.395590679293
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5]([O:4][H:14])([C:6]([H:16])([H:17])[H:18])[O:7][H:19])([H:13])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],82.0352599078837
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]#[N:5])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](#[N:7])[H:13],64.8160884844768
[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],74.79382720602341
[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[C:1](=[C:2]1[C@@:3]2([H:8])[C@:4]1([H:10])[C:5]([H:11])([H:12])[O:6]2)([H:7])[H:9],86.6633912202818
